US04147872
3-[4-(1,1-Dimethylheptyl)-2-hydroxyphenyl]piperidine
A mixture of 7.4 g. (24.5 mmoles) of 3-[4-(1,1-dimethylheptyl)-2-hydroxyphenyl]-1,2,5,6-tetrahydropyridine and 2.0 g. of 10% palladium-on-carbon in 150 ml. of ethanol and 75 ml. of ethyl acetate is stirred under one atmosphere of hydrogen for 2.5 hours. The reaction is filtered through diatomaceous earth and evaporated. Crystallization of the residue from ether-pentane gave 4.6 g. (62%) of the title compound.

reactant | 3-[4-(1,1-dimethylheptyl)-2-hydroxyphenyl]-1,2,5,6-tetrahydropyridine | 24.5 mmoles | CC(CCCCCC)(C)C1=CC(=C(C=C1)C=1CNCCC1)O | C20H31NO
reactant | ethanol | C(C)O | C2H6O
reactant | hydrogen | [H][H] | H2
catalyst | palladium-on-carbon | [Pd] | Pd
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-[4-(1,1-Dimethylheptyl)-2-hydroxyphenyl]piperidine | 62% | CC(CCCCCC)(C)C1=CC(=C(C=C1)C1CNCCC1)O | C20H33NO
